* C:\Users\georg\OneDrive\Dokumente\LTspice\PA HF\10W QRP Amplifier class B.asc
Q1 N005 N006 N009 0 2N2222
Q2 N010 N011 N012 0 2N2222
R1 N009 0 3.3
R2 N012 0 3.3
L1 N002 N006 10m
L2 N011 N002 10m
L3 N008 0 10m
V1 N008 0 SINE(0 0.65 1Meg 10u) Rser=50
C1 N002 0 10µ
R3 N002 0 200
R4 N001 N002 2.2k
L4 N005 N001 10m
L5 N001 N010 10m
L6 0 N007 10m
RL N007 0 50
V2 N001 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\georg\AppData\Local\LTspice\lib\cmp\standard.bjt
k1 l1 l2 l3 1
k2 l6 l4 l5 1
.tran 20u
* .step param res list 125 150 175 200
.backanno
.end
