* H:\GIT\HAM-Radio-transceiver-DA\Amplifiers\PA\5W QRP Amplifier from ZL2CTM.asc
V1 N005 0 SINE(0 1 14Meg) Rser=50
C1 N006 N005 100n
R2 N003 N006 1k
R3 N006 0 140
Q2 N004 N006 0 0 2N2222
L3 N003 N004 7.64µ
L4 N003 vout 26.53µ
R4 vout 0 50
V2 N003 0 12
L5 N001 0 3.82µ
L6 N002 0 26.53µ
V3 N001 0 SINE(0 24 14Meg) Rser=7.2
R5 N002 0 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\georg\AppData\Local\LTspice\lib\cmp\standard.bjt
k2 l3 l4 1
.tran 2u
k3 l5 l6 1
* .step param res list
.backanno
.end
