* C:\Users\georg\Downloads\filter (1).asc
V1 N001 0 AC 1 0 Rser=50.00
C1 N001 0 2.400n
L1 N001 0 56.00n
C2 N001 N002 20.00p
L2 N002 N003 6.800µ
C3 N003 0 2.400n
L3 N003 0 56.00n
RL N003 0 50
.ac dec 1001 8.535Meg 21.86Meg
.net I(RL) V1
* 3rd Order Chebyshev Bandpass\nConventional, Shunt First\nLower Cutoff Freq. = 13 MHz; Upper Cutoff Freq. = 14.35 MHz\nPassband Ripple = 0.10 dB\n\nrf-tools.com | Feb 10 2025 18:34
.backanno
.end
